US07683067B2
2-Oxoindoline-6-carbonitrile (0.063 g, 0.397 mmol) was added to a suspension of 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]piperazin-2-one (0.080 g, 0.33 mmol) and sodium hydride (0.042 g, 1.75 mmol) in 1-methyl-2-pyrrolidone (3 mL). The mixture was stirred at room temperature for 10 min, heated at 90° C. for 1 h and finally quenched with methanol (0.5 mL). Trituration with acetonitrile and drying in vacuo gave the crude 2-hydroxy-3-{1-oxido-5-[(3-oxopiperazin-1-yl)methyl]pyridin-2-yl}-1H-indole-6-carbonitrile as a solid. The crude intermediate was suspended in chloroform (5 mL) and phosphorus trichloride (0.5 mL, 5.73 mmol) was added. The mixture was stirred at 60° C. for 3 h and then concentrated in vacuo. Purification using preparative HPLC (XTerra®PrepMS C8 column 10 μm, 30×150 mm; 0.1 M NH4OAc buffer/acetonitrile, (80:20-20:80), as the eluent) gave a yellow solid that was dissolved in dichloromethane/methanol, (9:1), and treated with HCl in diethyl ether (1 M) at 0° C. The resulting yellow crystals were collected by filtration, washed with diethyl ether, and dried to obtain 0.036 g (26% yield) of the title compound: 1H NMR (D2O, 400 MHz) 8.16 (d, J=2 Hz, 1H), 7.96 (dd, J=9, 2 Hz, 1H), 7.80 (d, J=9 Hz, 1H), 7.61 (d, J=8 Hz, 1H), 7.35 (dd, J=8, 1 Hz, 1H), 7.31 (s, 1H), 4.11 (s, 2H), 3.62 (s, 2H), 3.51 (t, J=5H, 2H); MS (ESP) m/z 348 (M++1).

reactant | 2-Oxoindoline-6-carbonitrile | 0.397 mmol, 0.063 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]piperazin-2-one | 0.33 mmol, 0.080 g | ClC1=CC=C(C=[N+]1[O-])CN1CC(NCC1)=O | C10H12ClN3O2
reactant | sodium hydride | 1.75 mmol, 0.042 g | [H-].[Na+]
solvent | 1-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 2-hydroxy-3-{1-oxido-5-[(3-oxopiperazin-1-yl)methyl]pyridin-2-yl}-1H-indole-6-carbonitrile | OC=1NC2=CC(=CC=C2C1C1=[N+](C=C(C=C1)CN1CC(NCC1)=O)[O-])C#N | C19H17N5O3
